US08703953B2
Part B. 8-chloro-5-vinyl-5H-chromeno[3,4-c]pyridine
To a stirred suspension of NaH (0.182 g, 7.58 mmol) in THF (30 mL) was added 1-(4-(4-chloro-2-fluorophenyl)pyridin-3-yl)prop-2-en-1-ol (0.5 g, 1.896 mmol) dissolved in THF (5 mL) and the reaction mixture was stirred at room temperature for 2 h. The reaction was quenched by addition of saturated aqueous ammonium chloride solution (5 mL) and extracted with ethyl acetate (3×10 mL). The combined organic extracts were washed with brine (1×10 mL), dried over sodium sulfate and concentrated under reduced pressure. The crude 8-chloro-5-vinyl-5H-chromeno[3,4-c]pyridine was used without purification in the next step. 1H NMR (400 MHz, CDCl3) δ 8.61 (d, J=5.2 Hz, 1H), 8.40 (s, 1H), 7.65 (d, J=8.8 Hz, 1H), 7.5 (d, J=5.2 Hz, 1H), 7.06 (d, J=2.2 Hz, 2H), 6.09 (m, 1H), 5.70 (d, J=6.2 Hz, 1H), 5.37 (m, 1H), 5.28 (m, 1H).

reactant | NaH | 7.58 mmol, 0.182 g | [H-].[Na+]
reactant | 1-(4-(4-chloro-2-fluorophenyl)pyridin-3-yl)prop-2-en-1-ol | 1.896 mmol, 0.5 g | ClC1=CC(=C(C=C1)C1=C(C=NC=C1)C(C=C)O)F | C14H11ClFNO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 8-chloro-5-vinyl-5H-chromeno[3,4-c]pyridine | ClC=1C=CC2=C(C1)OC(C1=CN=CC=C12)C=C | C14H10ClNO
